US08957074B2
Following general N—C coupling procedure 1, 2-chloro-7-cyclopentyl-N,N-dimethyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide (162 mg, 0.55 mmole) was combined with tert-Butyl 1′-(6-aminopyridin-3-yl)-5′-oxo-8-azaspiro[bicyclo[3.2.1]octane-3,3′-pyrrolidine]-8-carboxylate (150 mg, 0.55 mmole) which gave tert-butyl 1′-(6-(7-cyclopentyl-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)pyridin-3-yl)-5′-oxo-8-azaspiro[bicyclo[3.2.1]octane-3,3′-pyrrolidine]-8-carboxylate (250 mg) in 86% yield. 1H NMR (400 MHz, CD2Cl2) δ 8.76 (s, 1H), 8.56-8.49 (m, 1H), 8.41 (s, 1H), 8.08-7.99 (m, 2H), 6.49 (s, 1H), 4.88-4.77 (m, 1H), 4.31 (s, 2H), 3.62-3.49 (m, 2H), 3.14 (s, 6H), 2.82 (s, 2H), 2.65-2.51 (m, 2H), 2.16-1.53 (m, 14H), 1.49 (s, 9H) HR-MS m/z 629.3568 (M+H)+

reactant | 2-chloro-7-cyclopentyl-N,N-dimethyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide | 0.55 mmole, 162 mg | ClC=1N=CC2=C(N1)N(C(=C2)C(=O)N(C)C)C2CCCC2 | C14H17ClN4O
reactant | tert-Butyl 1′-(6-aminopyridin-3-yl)-5′-oxo-8-azaspiro[bicyclo[3.2.1]octane-3,3′-pyrrolidine]-8-carboxylate | 0.55 mmole, 150 mg | NC1=CC=C(C=N1)N1CC2(CC1=O)CC1CCC(C2)N1C(=O)OC(C)(C)C | C20H28N4O3
product | tert-butyl 1′-(6-(7-cyclopentyl-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)pyridin-3-yl)-5′-oxo-8-azaspiro[bicyclo[3.2.1]octane-3,3′-pyrrolidine]-8-carboxylate | 250 mg, 86% yield | C1(CCCC1)N1C(=CC2=C1N=C(N=C2)NC2=CC=C(C=N2)N2CC1(CC2=O)CC2CCC(C1)N2C(=O)OC(C)(C)C)C(N(C)C)=O | C34H44N8O4
